US05225402
To a mixture of 1-(1-benzyl-4-piperidinyl)-7-aminocarbostyril (0.7 g), methanol (10 ml) and 37% formalin (1.4 ml) is added NaBH3CN (0.3 g) in portions. Thereafter, acetic acid (0.7 ml) is added thereto in portions at room temperature and the mixture is stirred at the same temperature for 1 hour. After completion of the reaction, water is added to the reaction mixture and the mixture is neutralized with an aqueous potassium carbonate and then extracted with ethyl acetate. The extract is concentrated by distilling off the solvent to give 1-(1-benzyl-4-piperidinyl)-7-dimethylaminocarbostyril (0.7 g).

reactant | 1-(1-benzyl-4-piperidinyl)-7-aminocarbostyril | 0.7 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=O)C=CC2=CC=C(C=C12)N | C21H23N3O
reactant | formalin | 1.4 ml | C=O | CH2O
reactant | NaBH3CN | 0.3 g | [BH3-]C#N.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | 1-(1-benzyl-4-piperidinyl)-7-dimethylaminocarbostyril | 0.7 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=O)C=CC2=CC=C(C=C12)N(C)C | C23H27N3O
